US09302988B2
Under an nitrogen atmosphere 1-benzyl-N,4-dimethyl-N-neopentyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)-1H-pyrrole-2-carboxamide (106 mg, 0.216 mmol) was dissolved in DMF (1 mL) and LiOH (4 mg, 0.216 mmol), bis(tri-tert-butylphosphine)palladium (0) (6 mg, 0.014 mmol) and 1-bromo-4-(2,2,2-trifluoroethoxy)benzene (50 mg, 0.196 mmol) were subsequently added. The reaction mixture was stirred at 80° C. under microwave irridation for 1 h. The mixture was cooled to RT and the reaction was stopped by addition of 1M NaOH solution (2 mL). The crude product was extracted with EtOAc (2×3 mL) and the combined organic layers were washed with water (3×1 mL), dried over Na2SO4, filtered and the solvent was removed under reduced pressure. The crude mass was purified by flash chromatography to give SC-260 (95 mg, 89.7%).

reactant | 1-benzyl-N,4-dimethyl-N-neopentyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)-1H-pyrrole-2-carboxamide | 0.216 mmol, 106 mg | C(C1=CC=CC=C1)N1C(=C(C(=C1C(F)(F)F)C)B1OC(C(O1)(C)C)(C)C)C(=O)N(CC(C)(C)C)C | C26H36BF3N2O3
reactant | LiOH | 0.216 mmol, 4 mg | [Li+].[OH-]
reactant | 1-bromo-4-(2,2,2-trifluoroethoxy)benzene | 0.196 mmol, 50 mg | BrC1=CC=C(C=C1)OCC(F)(F)F | C8H6BrF3O
reactant | NaOH | 1M, 2 mL | [OH-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | bis(tri-tert-butylphosphine)palladium | 0.014 mmol, 6 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 1-Benzyl-N,4-dimethyl-N-neopentyl-3-(4-(2,2,2-trifluoroethoxy)phenyl)-5-(trifluoromethyl)-1H-pyrrole-2-carboxamide | 95 mg, 89.7% | C(C1=CC=CC=C1)N1C(=C(C(=C1C(F)(F)F)C)C1=CC=C(C=C1)OCC(F)(F)F)C(=O)N(CC(C)(C)C)C | C28H30F6N2O2
